US06307055B1
Synthesis of 2-(2′-Hydroxy-5′-(bis(2-hydroxyethyl) aminomethyl) phenyl) benzotriazole
2-(2′-Hydroxy-5′bromomethylphenyl)benzotriazole (3.03 g. 0.01 mole), diethanol amine (3.14 g. 0.03 mole) were dissolved in 100 ml. of acetone. The reaction mixture was refluxed with constant stirring at 75° C. for 6 h. The solvent was then removed by rotary evaporation. Crude product was purified using silica gel column chromatography Product was identified by 1H-NMR.

reactant | 2-(2′-Hydroxy-5′bromomethylphenyl)benzotriazole | 0.01 mole, 3.03 g | OC1=C(C=C(C=C1)CBr)N1N=C2C(=N1)C=CC=C2 | C13H10BrN3O
reactant | diethanol amine | 0.03 mole, 3.14 g | N(CCO)CCO | C4H11NO2
solvent | acetone | CC(=O)C | C3H6O
product | 2-(2′-Hydroxy-5′-(bis(2-hydroxyethyl) aminomethyl) phenyl) benzotriazole | OC1=C(C=C(C=C1)CN(CCO)CCO)N1N=C2C(=N1)C=CC=C2 | C17H20N4O3
